US05066810
U.S. Pat. No. 4,785,113 discloses the preparation of the title compounds from ethyl 2-methylacetoacetate by reaction with NH3 to give ethyl 3-amino-2-methylcrotonate, reaction with diethyl monomethylmalonate to give 2,3,5-trimethyl-4,6-dihydroxypyridine, chlorination to give 2,4-dichloro-3,5,6-trimethylpyridine, selective cleavage of the 2-Cl substituent and exchange of the 4-Cl substituent for a methoxy group, and then oxidation to give the N-oxide. The subsequent reactions are carried out analogously to the process described in U.S. Pat. No. 4,472,409.

reactant | ethyl 2-methylacetoacetate | CC(C(=O)OCC)C(=O)C | C7H12O3
reactant | NH3 | N | H3N
reactant | ethyl 3-amino-2-methylcrotonate | N\C(=C(/C(=O)OCC)\C)\C | C7H13NO2
reactant | diethyl monomethylmalonate | CC(C(=O)OCC)C(=O)OCC | C8H14O4
product | 2,3,5-trimethyl-4,6-dihydroxypyridine | CC1=NC(=C(C(=C1C)O)C)O | C8H11NO2
